US07446199B2
2-[1-(Toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl ]-cyclopropanecarboxylic acid ethyl ester, (153 mg, 0.4 mmol), was added to 2 mL ethanol and sodium ethoxide solution, (˜2.68M, 300 μL, 0.8 mmol), was added. The mixture was heated to 70° C. for 3 hours. The mixture was cooled to rt and several mL sat. ammonium chloride solution were added. The mixture was extracted with dichloromethane and the organic layers evaporated affording 85 mg essentially pure 2-(1H-Pyrrolo[2,3-b]pyridin-5-yl)-cyclopropanecarboxylic acid ethyl ester, which was used without further purification. MS ES+231.1.

reactant | 2-[1-(Toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl ]-cyclopropanecarboxylic acid ethyl ester | 0.4 mmol, 153 mg | C(C)OC(=O)C1C(C1)C=1C=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C | C20H20N2O4S
reactant | sodium ethoxide | 0.8 mmol, ˜2.68M, 300 μL | [O-]CC.[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 2-(1H-Pyrrolo[2,3-b]pyridin-5-yl)-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1C(C1)C=1C=C2C(=NC1)NC=C2 | C13H14N2O2
